US04806538
A mixture of N-tert-butoxycarbonyl-D-phenylalanyl-S-methyl-D-cysteine ethyl ester (0.41 g), ethyl acetate (10 ml), and saturated solution of hydrogen chloride in ethyl acetate (10 ml) was stirred for 4 hours at room temperature. After removal of the solvent, the residue was dissolved in ethanol (10 ml) and saturated ammonia in ethanol (10 ml) was added to the solution. The resulting mixture was stirred for 17 hours at room temperature and the solvent was evaporated off. Recrystallization from acetic acid gave (3R,6S)-3-benzyl-6-methylthiomethylpiperazine-2,5-dione (0.08 g).

reactant | N-tert-butoxycarbonyl-D-phenylalanyl-S-methyl-D-cysteine ethyl ester | 0.41 g | C(C)OC([C@H](NC([C@H](NC(=O)OC(C)(C)C)CC1=CC=CC=C1)=O)CSC)=O | C20H30N2O5S
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | (3R,6S)-3-benzyl-6-methylthiomethylpiperazine-2,5-dione | 0.08 g | C(C1=CC=CC=C1)[C@@H]1C(N[C@@H](C(N1)=O)CSC)=O | C13H16N2O2S
